US04424351
3-Benzyl-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride is reacted with cinnamoyl chloride as described in Example 1 to obtain 3-benzyl-1-cinnamoyl-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride with a yield of 78%; m.p.: 228° C.

reactant | 3-Benzyl-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride | Cl.C(C1=CC=CC=C1)C=1NNC2=C(N1)C=NC=C2
reactant | cinnamoyl chloride | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
product | 3-benzyl-1-cinnamoyl-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride | yield of 78% | Cl.C(C1=CC=CC=C1)C=1NN(C2=C(N1)C=NC=C2)C(C=CC2=CC=CC=C2)=O | InChI=1S/C22H18N4O.ClH/c27-22(12-11-17-7-3-1-4-8-17)26-20-13-14-23-16-19(20)24-21(25-26)15-18-9-5-2-6-10-18;/h1-14,16H,15H2,(H,24,25);1H
